US09428503B2
Intermediate F5: 7-Fluoro-8-(6-fluoro-3-pyridyl)-3-methyl-1-tetrahydropyran-4-yl-imidazo[4,5-c]quinolin-2-one
(6-Fluoropyridin-3-yl)boronic acid (0.445 g, 3.16 mmol), 8-bromo-7-fluoro-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one (1 g, 2.63 mmol) and 2M K2CO3 (3.95 mL, 7.89 mmol) were suspended in dioxane (3 mL) and water (0.75 mL). The reaction was degassed with nitrogen and then dichloro[1,1′-bis(di-tert-butylphosphino)ferrocene]palladium(II) (0.086 g, 0.13 mmol) was added and the reaction heated to 80° C. for 1 h in the microwave reactor. The mixture was allowed to cool, diluted with water then extracted with DCM (2×100 mL). The combined organic phases were separated and concentrated in vacuo. The crude product was purified by FCC, elution gradient 0 to 10% methanolic ammonia in DCM, to afford the desired material as a beige solid (0.92 g, 88%). NMR Spectrum: 1H NMR (500 MHz, DMSO-d6) δ 1.90 (2H, dd), 2.69 (2H, qt), 3.49-3.59 (5H, m), 3.97-4.06 (2H, m), 5.08 (1H, tt), 7.38-7.45 (1H, m), 7.96 (1H, d), 8.34-8.42 (2H, m), 8.61-8.65 (1H, m), 8.95 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=397

reactant | (6-Fluoropyridin-3-yl)boronic acid | 3.16 mmol, 0.445 g | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
reactant | 8-bromo-7-fluoro-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one | 2.63 mmol, 1 g | BrC1=CC=2C3=C(C=NC2C=C1F)N(C(N3C3CCOCC3)=O)C | C16H15BrFN3O2
reactant | K2CO3 | 7.89 mmol, 2M, 3.95 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.75 mL | O | H2O
catalyst | dichloro[1,1′-bis(di-tert-butylphosphino)ferrocene]palladium(II) | 0.13 mmol, 0.086 g | CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.[Cl-].[Cl-].[Fe+2].[Pd+2]
product | 7-Fluoro-8-(6-fluoro-3-pyridyl)-3-methyl-1-tetrahydropyran-4-yl-imidazo[4,5-c]quinolin-2-one | 0.92 g, 88% | FC=1C(=CC=2C3=C(C=NC2C1)N(C(N3C3CCOCC3)=O)C)C=3C=NC(=CC3)F | C21H18F2N4O2
